US04720500
The procedure is analogous to that described in Example 1, but starting with 4-dimethylaminobenzoic acid (14.9 g), N,N'-carbonyldiimidazole (14.6 g) and 2-amino-7-chloro-1,8-naphthyridine (10.8 g). The crude product obtained by filtration of the reaction mixture (6.4 g; m.p. 248° C.) is dissolved in boiling dimethylformamide (95 cc). After cooling for 2 hours at 20° C., water (95 cc) is added. The crystallized solid is separated by filtration, washed with a dimethylformamide/water (50:50 by volume) mixture (2×10 cc), and dried at 45° C. under reduced pressure (0.07 kPa). N-(7-Chloro-1,8-naphthyridin-2-yl)-4-dimethylaminobenzamide (6.2 g), m.p. 248° C., is obtained.

reactant | 4-dimethylaminobenzoic acid | 14.9 g | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 10.8 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | dimethylformamide | 95 cc | CN(C=O)C | C3H7NO
solvent | water | 95 cc | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-4-dimethylaminobenzamide | 6.2 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)N(C)C)=O | C17H15ClN4O
